US05068231
3-[3-(Trifluoromethyl)phenoxy]-1-azetidinecarboxamide
A 16 ml solution containing 5.94 g of phosgene was prepared by dissolving phosgene gas in cold toluene. This solution was stirred with 7 g potassium carbonate in an acetone-ice bath for about 10 minutes. To this solution in the bath was added dropwise over a 13 minute period at -9° C. to +4° C. a solution of 19.2 g (0.050 mole) of 1-(diphenylmethyl)-3-[3-(trifluoromethyl)phenoxy]azetidine in 38.4 ml of toluene. The cold bath was removed and the temperature of the reaction mixture rose to 18° C. after 1/2 hr. TLC (silica gel eluted with methylene chloride) of a sample indicated all the 1-(diphenylmethyl)-3-[3-(trifluoromethyl)phenoxy]azetidine had disappeared (reacted). After 1 hr, the mixture was filtered to remove solid, leaving a filtrate containing 3-[3-(trifluoromethyl)phenoxy]-1-azetidinecarbonyl chloride and diphenylchloromethane. The filtrate was added (over a 7 min period) to about 30 ml of liquid ammonia at - 60° to -30° C. Some white solid formed in the mixture. The ammonia was refluxed under a dry ice-acetone condenser for 1/2 hr and then allowed to evaporate using nitrogen gas to facilitate the removal of ammonia. Petroleum ether (60 ml) was added to the mixture and the resulting white solid was collected by filtration and rinsed twice with petroleum ether to give 18.1 g of solid. The solid was stirred in 90 ml of water at room temperature for one hr, filtered off, rinsed twice with water and dried under vacuum at about 60° C. for 2 hr to give 13 g (100%) of title compound.

reactant | phosgene | 5.94 g | C(=O)(Cl)Cl | CCl2O
reactant | potassium carbonate | 7 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(diphenylmethyl)-3-[3-(trifluoromethyl)phenoxy]azetidine | 0.050 mole, 19.2 g | C1(=CC=CC=C1)C(N1CC(C1)OC1=CC(=CC=C1)C(F)(F)F)C1=CC=CC=C1 | C23H20F3NO
reactant | 3-[3-(trifluoromethyl)phenoxy]-1-azetidinecarbonyl chloride | FC(C=1C=C(OC2CN(C2)C(=O)Cl)C=CC1)(F)F | C11H9ClF3NO2
reactant | diphenylchloromethane | C1(=CC=CC=C1)C(Cl)C1=CC=CC=C1 | C13H11Cl
reactant | ammonia | N | H3N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 38.4 ml | C1(=CC=CC=C1)C | C7H8
product | 3-[3-(Trifluoromethyl)phenoxy]-1-azetidinecarboxamide | 18.1 g | FC(C=1C=C(OC2CN(C2)C(=O)N)C=CC1)(F)F | C11H11F3N2O2
